Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
cefazolin
 
Attending: ___.
 
Chief Complaint:
Painful LLE and LUE 
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Mr ___ is a ___ yo M with history of kidney donation to his 
father ___ 1.2-1.4 baseline) presenting for evaluation of 
painful erythematous RLE. Patient had labwork done for back pain 
on ___ at notes that area at site of blood draw has slowly 
developed worsening erythema, warmth and swelling. He noted Tmax 
100.8 today. Yesterday evening, he noted similar appearing 
lesions below his R. knee and at his R. ankle. He cannot recall 
trauma though he notes he frequently bumps into things. He has 
no known hx of MRSA. He was out to dinner with an ID specialist 
who recommended that he come into ED for evaluation.  
 
 Denies ear pain, cough, cp, sob, abd pain, n/v/d, dysuria.  
 In the ED, initial vitals were: 99.6 115 116/67 16 100% RA. 
Labs were significant for Cr 1.3 (baseline, h/o renal donation), 
WBC 11.6. Exam was notable for RLE erythema. Patient was given 
2L IVF and IV clinda and vanco given allergy to cefazolin. With 
fluid HR improved to the ___. Blood cultures sent.  
 
 Vitals prior to transfer were:  
 Today 00:52 ___ T98.6 BP112/60 RR18 100% RA  
 Upon arrival to the floor, patient c/o of minimal pain at sites 
of cellulitis. He also reports feeling run down over the same 
period.  
 
Past Medical History:
- 1 kidney, donated R ___ to father who is doing well  
- Lower back injury in hig school  
- allergies, will take flonase  
- NPEP ___ with Cr bump, CrCl stayed wnl 
 
Social History:
___
Family History:
Father hemochromatosis, requiring kidney transplant  
Hx skin cancer in family  
 
Physical Exam:
===============
ADMISSION EXAM:
===============
Vitals: T98.1 BP121/67 HR83 RR18 100%RA  
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear, PERRL  
Neck: Supple, JVP not elevated, no LAD  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding  
GU: No foley  
Ext: R antecub fossa with 2x2in area of warmth, 
erythema/induration/ttp, 5x3in area of erythema, warmth, and 
induration immediately below knee of RLE and 2x2 in similar area 
on left anterior shin. Extremities otherwise warm, well 
perfused, 2+ pulses, no clubbing, cyanosis or edema  
Neuro: CNII-XII intact, ___ strength upper/lower extremities, 
grossly normal sensation, 2+ reflexes bilaterally, gait 
deferred.  

===============
DISCHARGE EXAM:
===============
Vitals: 98.7, 114/56, 66, 18, 100% on RA
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear, PERRL  
Neck: Supple, JVP not elevated, no LAD  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding  
GU: No foley  
Ext: 
  RUE: antecubital fossa with small 1.5x1.5cm area of warmth 
with improving erythema/tenderness to palpation, decreased in 
size, but also moved approximately 1.5cm distally from prior 
border traced in the ED
  RLE: with 8x2.5cm patch or warmth erythema/tenderness distal 
to knee, and smaller 4x4cm patch proximal to ankle which has 
moved approx. 1.5cm proximally
  Extremities otherwise warm, well perfused, 2+ pulses, no 
clubbing, cyanosis or edema  
Neuro: CNII-XII intact, ___ strength upper/lower extremities, 
grossly normal sensation, 2+ reflexes bilaterally, gait 
deferred.  

 
Pertinent Results:
===============
ADMISSION LABS:
===============
___ 07:30AM   GLUCOSE-101* UREA N-15 CREAT-1.2 SODIUM-141 
POTASSIUM-4.0 CHLORIDE-106 TOTAL CO2-26 ANION GAP-13
___ 07:30AM   CALCIUM-8.4 PHOSPHATE-3.0 MAGNESIUM-2.3
___ 07:30AM   WBC-7.5 RBC-4.22* HGB-12.9* HCT-38.5* MCV-91 
MCH-30.6 MCHC-33.5 RDW-12.8 RDWSD-42.0
___ 07:30AM   PLT COUNT-193
___ 10:40PM   GLUCOSE-101* UREA N-24* CREAT-1.3* SODIUM-138 
POTASSIUM-3.7 CHLORIDE-101 TOTAL CO2-24 ANION GAP-17
___ 10:40PM   estGFR-Using this
___ 10:40PM   LACTATE-0.9
___ 10:40PM   WBC-11.6* RBC-4.47* HGB-14.1 HCT-40.4 MCV-90 
MCH-31.5 MCHC-34.9 RDW-12.5 RDWSD-41.2
___ 10:40PM   NEUTS-67.6 ___ MONOS-9.0 EOS-0.6* 
BASOS-0.3 IM ___ AbsNeut-7.80* AbsLymp-2.57 AbsMono-1.04* 
AbsEos-0.07 AbsBaso-0.04
___ 10:40PM   PLT COUNT-216

==================
PERTINENT RESULTS:
==================
Admission ECG: SR HR76 with early repolarization abnormalities  

RUE U/S w/ Doppler (___):
No evidence of deep vein thrombosis in the right upper 
extremity. 

___ 12:00PM BLOOD ___ PTT-33.5 ___
___ 07:00AM BLOOD Plt ___
___ 12:00PM BLOOD ___
___ 12:00PM BLOOD D-Dimer-175
___ 03:40PM BLOOD ___

===============
DISCHARGE LABS:
===============
___ 07:00AM BLOOD WBC-5.6 RBC-4.72 Hgb-14.5 Hct-43.7 MCV-93 
MCH-30.7 MCHC-33.2 RDW-12.8 RDWSD-43.5 Plt ___
___ 07:00AM BLOOD Glucose-90 UreaN-11 Creat-1.2 Na-138 
K-4.2 Cl-103 HCO3-26 AnGap-13
___ 07:00AM BLOOD Calcium-9.4 Phos-3.6 Mg-2.1
 
Brief Hospital Course:
Mr ___ is a ___ yo M with history of kidney donation to his 
father ___ 1.2-1.4 baseline) presenting for evaluation of 
painful erythematous RLE and RUE, with recent blood draw 
performed on ___ (drawn from RUE antecubital fossa). Patient 
tachycardic on presentation to ED, resolved with IV fluids.

# RLE/RUE cellulitis: s/p phlebotomy at site on RUE with 
associated sites of cellulitis on RLE. Exam concerning for Tmax 
100.8 at home, tachycardia, which improved with fluid 
supplementation in the ED. The patient was started on 
Vancomycin/Clindamycin IV (patient with cefazolin allergy 
documented). Patient was continued on IV Clindamycin through ___ 
dose on ___, after which he was transitioned to PO Clindamycin 
300mg Q6H. On AM rounds ___, the patient's erythematous patch 
on his RUE was noted to have moved distally, and the distal RLE 
lesion was found to have migrated 1.5cm proximally, although all 
had improved in terms of degree of erythema, tenderness to 
palpation, and edema. Coags, fibrinogen, and D-dimer were 
ordered (unremarkable). A RUE ultrasound was negative for 
thrombosis. As a result, the patient's symptoms were attributed 
to cellulitis, and the patient was discharged to complete a 
course of clindamycin.

Transitional Issues:
====================
- Patient to complete a 10-day course of PO Clindamycin ___, last dose ___
- Follow-up ___ and ___ titers

# Code Status: Full Code
# Contact: ___ (Mother) ___ 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1. Clindamycin 300 mg PO Q6H Duration: 8 Days 
RX *clindamycin HCl 300 mg 1 capsule(s) by mouth every six (6) 
hours Disp #*32 Capsule Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis:
- Right Upper and Lower Extremity Cellulitis

Secondary Diagnoses:
- 1 kidney, donated R ___

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr. ___,

It was a pleasure taking care of your at ___ 
___. You were admitted for cellulitis (a skin 
infection) of your right arm and right leg. You were initially 
started on two IV antibiotics (Vancomycin and Clindamycin), but 
you were narrowed to just Clindamycin after the redness and 
swelling started to improve. The redness and swelling was noted 
to have moved, and as a result we obtained an ultrasound of your 
arm to ensure there were no blood clots. We also sent for 
additional tests that could explain why this rash was moving; 
the results of these tests take time to come back, and can be 
followed-up with your primary care physician. You were continued 
on pill antibiotics (clindamycin) which you will continue to 
take after discharge. 

It is important that you continue to take all of your 
medications as prescribed, and that you attend all of your 
follow-up appointments as scheduled.

We wish you the best of health,
Your Care Team at ___
 
Followup Instructions:
___